US05530019
The procedure of Ex. 45 was repeated except that (E)-4-methoxybenzyl 4-[3-(2-undecenoyl)-1-indolyl]butyrate obtained in Ex. 48 was used in place of (E)-4-methoxybenzyl 4-[3-(2-none-noyl)-1-indolyl]butyrate to give (E)-4-[3-(2-undecenoyl)-1-indolyl]butyric acid.

reactant | (E)-4-methoxybenzyl 4-[3-(2-undecenoyl)-1-indolyl]butyrate | C(\C=C\CCCCCCCC)(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC1=CC=C(C=C1)OC | C31H39NO4
reactant | (E)-4-methoxybenzyl 4-[3-(2-none-noyl)-1-indolyl]butyrate | C(\C=C\CCCCCC)(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC1=CC=C(C=C1)OC | C29H35NO4
product | (E)-4-[3-(2-undecenoyl)-1-indolyl]butyric acid | C(\C=C\CCCCCCCC)(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)O | C23H31NO3
